US07964739B2
A mixture of benzhydrylamine (25 g, 136.4 mmol) and trimethylsilylmethyl chloride (8.39 g, 68.4 mmol) in acetonitrile (105 ml) was refluxed overnight. Then the mixture was concentrated under vacuum at 70° C. with a rotary evaporator to remove all volatiles. The white residue was mixed with n-heptane (150 ml) and filtered over a glass filter. The salt residue was washed with n-heptane (2×25 ml). The combined heptane filtrates were concentrated under vacuum to give the crude product as a clear, slightly yellow oil (23 g; >100%). Purification by chromatography on silica gel (700 ml) eluting with n-heptane (2000 ml), followed by n-heptane:ethyl acetate (10:1) gave pure diphenyl-N-((trimethylsilyl)methyl)methanamine (5.5 g, 20.4 mmol; 30%).

reactant | benzhydrylamine | 136.4 mmol, 25 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | trimethylsilylmethyl chloride | 68.4 mmol, 8.39 g | C[Si](C)(C)CCl | C4H11ClSi
solvent | acetonitrile | 105 ml | C(C)#N | C2H3N
product | diphenyl-N-((trimethylsilyl)methyl)methanamine | 20.4 mmol, 5.5 g, 30% | C1(=CC=CC=C1)C(NC[Si](C)(C)C)C1=CC=CC=C1 | C17H23NSi
